US04282212
1-(N-Ethoxycarbonyl-thiocarbamoyl)-2-cyanoaziridine.
3.94 g. Ethoxycarbonyl isothiocyanate are dissolved in 75 ml. anhydrous toluene and to this there is added dropwise, at a temperature between 20° and 30° C., a solution of 2.04 g. 2-cyanoaziridine in 50 ml. toluene. The reaction mixture is stirred at ambient temperature for a further hour and the crystals obtained are filtered off with suction, washed with toluene and then triturated with diethyl ether. There are thus obtained 4 g. 1-(N-ethoxycarbonyl-thiocarbamoyl)-2-cyanoaziridine; m.p. 152°-155° C. (foaming up).

reactant | Ethoxycarbonyl isothiocyanate | C(C)OC(=O)N=C=S | C4H5NO2S
reactant | 2-cyanoaziridine | C(#N)C1NC1 | C3H4N2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(N-Ethoxycarbonyl-thiocarbamoyl)-2-cyanoaziridine | C(C)OC(=O)NC(=S)N1C(C1)C#N | C7H9N3O2S
